US06586445B1
(1R)-2-(1H-Indol-3-yl)-1-(4-phenyl-1,3-thiazol-2-yl)-1-ethanamine Hydrochloride
To (1.2 g, 2.85 mmol) of tert-butyl (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1,3-thiazol-2-yl)ethylcarbamate was added ethyl acetate (10 ml) and 20 ml of a 1N HCl solution in ethyl acetate. The solution was stirred for about 2 hours at about 20° C. followed by about 2 hours at about 50° C. The crystals which formed on cooling were collected by filtration and washed with diethyl ether to give 1 g of the title product as an orange powder. Melting point: 170-172° C.

reactant | tert-butyl (1R)-2-(1H-indol-3-yl)-1-(4-phenyl-1,3-thiazol-2-yl)ethylcarbamate | 2.85 mmol, 1.2 g | N1C=C(C2=CC=CC=C12)C[C@H](C=1SC=C(N1)C1=CC=CC=C1)NC(OC(C)(C)C)=O | C24H25N3O2S
reactant | HCl | 1N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | (1R)-2-(1H-Indol-3-yl)-1-(4-phenyl-1,3-thiazol-2-yl)-1-ethanamine Hydrochloride | 1 g | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](N)C=1SC=C(N1)C1=CC=CC=C1 | InChI=1S/C19H17N3S.ClH/c20-16(10-14-11-21-17-9-5-4-8-15(14)17)19-22-18(12-23-19)13-6-2-1-3-7-13;/h1-9,11-12,16,21H,10,20H2;1H/t16-;/m1./s1
